US05091432
2.00 g (6.82 mmol) of 2-[(1,6-dihydro-6-amino-9H-purin-9-yl)methyl]butanedioic acid, dimethyl ester (AIT-0073) was placed into a 50 ml round bottom flask equipped with a magnetic stirring bar. Then 10 ml glacial acetic acid was added and the solution was stirred until homogeneous. 2.35 g (34.10 mmol) of NaNO2 in 4 ml of H2O was added to the stirring solution dropwise. The stoppered solution was stirred for 24 hours at room temperature. An additional 0.775 g (11.23 mmol) of NaNO2 in 1 ml H2O was added and the solution was stirred for another 24 hours. The acetic acid was removed under reduced pressure on the rotary evaporator. Water was added and was removed in the same manner. This was repeated again until little or no more acetic acid was left. 10 ml of H2O was added to the semi-solid residue to completely dissolve the mixture. This solution was extracted with 30 ml-40 ml of acetonitrile and the aqueous layer was discarded. The organic layer was washed twice with 30 ml of saturated brine. Upon evaporation of the solvent, a light orange oil was obtained. This was treated with 35 ml of ethyl ether and triturated with methanol to yield 615 mg of 3-[(1,6-dihydro-6-oxo-9H-purin-9-yl)methyl]butanedioicacid, methyl diester (AIT-0075) as an off-white solid. Yield: 31% m.p. 130°-135° C.

reactant | 2-[(1,6-dihydro-6-amino-9H-purin-9-yl)methyl]butanedioic acid, dimethyl ester | 6.82 mmol, 2.00 g | NC1C=2N=CN(C2N=CN1)CC(C(=O)OC)CC(=O)OC | C12H17N5O4
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | NaNO2 | 34.10 mmol, 2.35 g | N(=O)[O-].[Na+]
reactant | NaNO2 | 11.23 mmol, 0.775 g | N(=O)[O-].[Na+]
reactant | ethyl ether | 35 ml | C(C)OCC | C4H10O
solvent | H2O | 4 ml | O | H2O
solvent | H2O | 1 ml | O | H2O
product | 3-[(1,6-dihydro-6-oxo-9H-purin-9-yl)methyl]butanedioicacid | 615 mg, Yield: 31% | O=C1C=2N=CN(C2N=CN1)CC(CC(=O)O)C(=O)O | C10H10N4O5
